US06194409B1
106d. (2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidin-1-yl}-2-oxo-1-(R)-cyclohexyl-ethyl)-carbamic acid methyl ester
A mixture of 1-[(R)-methoxycarbonylamino-cyclohexyl-acetyl]-pyrrolidine-2-(S)-carboxylic acid (0.410 g), 6-aminomethyl-isoquinolin-1-ylamine (0.227 g), N-methyl morpholine (0.58 mL) and 0.423 g of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (TBTU) in 10 mL of dry N,N-dimethyl formamide was stirred for 3 h at ambient temperature. The mixture was concentrated and the remaining residue was purified by BPLC (RP-18; H2OCH3OH 95/5→0/100) to give 0.350 g (58%) of the title compound as a white solid. (+)-APCI-MS: 468 (MH+).

reactant | 1-[(R)-methoxycarbonylamino-cyclohexyl-acetyl]-pyrrolidine-2-(S)-carboxylic acid | 0.410 g | COC(=O)N[C@@H](C(=O)N1[C@@H](CCC1)C(=O)O)C1CCCCC1 | C15H24N2O5
reactant | 6-aminomethyl-isoquinolin-1-ylamine | 0.227 g | NCC=1C=C2C=CN=C(C2=CC1)N | C10H11N3
reactant | N-methyl morpholine | 0.58 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 0.423 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | (2-{2-(S)-[(1-Amino-isoquinolin-6-ylmethyl)-carbamoyl]-pyrrolidin-1-yl}-2-oxo-1-(R)-cyclohexyl-ethyl)-carbamic acid methyl ester | 0.350 g, 58% | COC(N[C@@H](C(=O)N1[C@@H](CCC1)C(NCC=1C=C2C=CN=C(C2=CC1)N)=O)C1CCCCC1)=O | C25H33N5O4
